US07696347B2
Methyl 4-methoxymethyl-benzoate
To a mixture of methyl 4-bromobenzoate (50 mg, 0.233 mmol) and 1,4-dioxane (1 ml) were added water (0.1 ml), cesium carbonate (228 mg, 0.7 mmol), potassium methoxymethyl trifluoroborate (71 mg, 0.467 mmol) and 1′,1′-bis(diphenylphosphino)ferrocenedichloropalladium (II) (17 mg, 0.023 mmol). Then, the reaction mixture was stirred at 100° C. (external temperature) for 4.5 hours. After the reaction mixture was cooled at room temperature, water and methylene chloride were added to the mixture, followed by filtration using celite. The separated organic layer was washed with an aqueous saturated sodium chloride solution. The organic layer was separated, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethylacetate=10:1) to obtain the title compound (13.9 mg, 33%).

reactant | methyl 4-bromobenzoate | 0.233 mmol, 50 mg | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
reactant | water | 0.1 ml | O | H2O
reactant | cesium carbonate | 0.7 mmol, 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 4-methoxymethyl-benzoate | 13.9 mg, 33% | COCC1=CC=C(C(=O)OC)C=C1 | C10H12O3
